US04045556
100 mg of 5% palladium on charcoal in 15 ml of glacial acetic acid are pretreated with hydrogen. Then a solution of 850 mg of 5-chloro-orotyl-L-histidyl-L-prolinamide in 30 ml of glacial acetic acid are added and the mixture is shaken in a hydrogen atmosphere at normal pressure and at room temperature. After consumption of 2 m moles of hydrogen the catalyst is filtered off, the filtrate evaporated to a small volume and treated with absolute ether. The precipitate is separated, washed with ether and dried to give orotyl-L-histidyl-L-prolinamide-hydrochloride in almost quantitative yield.

reactant | hydrogen | [H][H] | H2
reactant | 5-chloro-orotyl-L-histidyl-L-prolinamide | 850 mg | ClC1=C(C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N)CCC2)NC(NC1=O)=O | C16H18ClN7O5
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | orotyl-L-histidyl-L-prolinamide-hydrochloride | quantitative yield | Cl.C(C1=CC(=O)NC(=O)N1)(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | InChI=1S/C16H19N7O5.ClH/c17-13(25)11-2-1-3-23(11)15(27)10(4-8-6-18-7-19-8)20-14(26)9-5-12(24)22-16(28)21-9;/h5-7,10-11H,1-4H2,(H2,17,25)(H,18,19)(H,20,26)(H2,21,22,24,28);1H/t10-,11-;/m0./s1
